US08008298B2
To a flask charged with 20 mL of anhydrous N-meythlpyrrolidine at 0° C. was added 60% NaH (840 mg, 21 mmol). After stirring 15 min, ethyl acetoacetate (2.73 g, 10.8 mmol) was added slowly. After stirring an additional 20 min 3,5-Dibromo-pyrazin-2-ylamine (5.04 g, 20 mmol). The reaction vessel was then removed from the ice bath and heated to 140° C. for 3 days. The dark mixture was cooled to rt and diluted with diethyl ether and water. The mixture was filtered and then partitioned. The organic layer was washed with water and then brine, dried over Na2SO4, filtered, and concentrated to afford a dark red oil. This was purified by silica gel chromatography (4:1 Hexanes:EtOAc) to afford 290 mg of 2-Bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester.

reactant | NaH | 21 mmol, 840 mg | [H-].[Na+]
reactant | ethyl acetoacetate | 10.8 mmol, 2.73 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 3,5-Dibromo-pyrazin-2-ylamine | 20 mmol, 5.04 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
product | 2-Bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 290 mg | C(C)OC(=O)C1=C(NC2=NC=C(N=C21)Br)C | C10H10BrN3O2
